US05587515
Methanol (128 g) was added to 344 g (4 moles) of methyl acrylate containing 500 ppm of methoxyhydroquinone and, while stirring and placed in a water bath, 404 g (4 moles) of dipropylamine was added dropwise thereinto over a period of 30 minutes. After completion of the dropping, the reaction was continued at 70° C. for three hours. After completion of the reaction, methanol was evaporated therefrom to give 746 g of methyl beta-dipropylaminopropionate. The purity as checked by gas chromatography was 99%.

reactant | methyl acrylate | 4 moles, 344 g | C(C=C)(=O)OC | C4H6O2
reactant | methoxyhydroquinone | COC1=C(O)C=CC(=C1)O | C7H8O3
reactant | dipropylamine | 4 moles, 404 g | C(CC)NCCC | C6H15N
solvent | methanol | CO | CH4O
solvent | Methanol | 128 g | CO | CH4O
product | methyl beta-dipropylaminopropionate | 746 g | C(CC)N(CCC(=O)OC)CCC | C10H21NO2
